US09445594B2
Preparation of 1-(2-isopropylphenyl)-3-(4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea (F34)
To a 20 mL vial, 2-(4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetyl azide (0.100 g, 0.228 mmol) was suspended in acetonitrile (1.5 mL). The suspension was stirred in a pre-heated heating block at 70° C. for 2 hours. The suspension was cooled to room temperature, then 2-isopropylaniline (0.0339 g, 0.251 mmol) and cesium carbonate (0.0890 g, 0.274 mmol) were added. The reaction was allowed to stir for overnight at room temperature. The reaction was filtered through a fritted funnel. The filtrate was concentrated onto Celite® and purified by reverse phase chromatography using 5-100% acetonitrile/water as eluent to provide the title compound as a white solid (0.028 g, 22%).

reactant | 2-(4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetyl azide | 0.228 mmol, 0.100 g | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CC(=O)N=[N+]=[N-])F | C18H11F5N6O2
reactant | 2-isopropylaniline | 0.251 mmol, 0.0339 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | cesium carbonate | 0.274 mmol, 0.0890 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 1-(2-isopropylphenyl)-3-(4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea | 0.028 g, 22% | C(C)(C)C1=C(C=CC=C1)NC(=O)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C27H24F5N5O2
